US05036075
2-(4-Chlorobutyl)naphtho[1,8-cd]isothiazole 1,1-dioxide may be obtained in the following manner: operating as in Example 1 for the preparation of 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide, starting with sodium hydride (4.8 g) in a 50% dispersion in vaseline oil, 1-bromo-4-chlorobutane (11.9 cc) and 1,8-naphthosultam (20.5 in dimethylformamide (250 cc). After purification by flash-chromatography on a silica under a current of argon at medium pressure (0.5-1.5 bar) with a mixture of dichloromethane and cyclohexanone (30-70 vol) as eluant, 2-(4-chlorobutyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (24.6 g) is obtained in the form of a yellow oil which is used in the crude state in the subsequent syntheses.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | 1-bromo-4-chlorobutane | 11.9 cc | BrCCCCCl | C4H8BrCl
reactant | 1,8-naphthosultam | C1=CC2=C3C(=C1)NS(=O)(=O)C3=CC=C2 | C10H7NO2S
solvent | dimethylformamide | 250 cc | CN(C=O)C | C3H7NO
product | 2-(4-chlorobutyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 24.6 g | ClCCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C14H14ClNO2S
